US09260438B2
A suspension of tofacitinib free base (1.0 g, 3.201 mmol) in isopropanol was heated to 55° C. to dissolve. A solution of approximately 17 wt % hydrogen chloride in isopropanol (825 mg, 3.84 mmol) was added. The solution was then cooled to 23 to 25° C. whereupon slightly gummy solids precipitated out. The suspension was stirred at 23 to 25° C. for 64 hours, filtered and washed with isopropanol (2×12 mL). The damp cake was dried under vacuum (45 torr) at 40° C. (24 hours) to yield amorphous tofacitinib hydrochloride (612 mg).

reactant | tofacitinib | 3.201 mmol, 1.0 g | C[C@@H]1CCN(C[C@@H]1N(C)C2=C3C=CNC3=NC=N2)C(=O)CC#N | C16H20N6O
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | isopropanol | 3.84 mmol, 825 mg | C(C)(C)O | C3H8O
product | tofacitinib hydrochloride | 612 mg | C[C@@H]1CCN(C[C@@H]1N(C)C2=C3C=CNC3=NC=N2)C(=O)CC#N.Cl | InChI=1S/C16H20N6O.ClH/c1-11-5-8-22(14(23)3-6-17)9-13(11)21(2)16-12-4-7-18-15(12)19-10-20-16;/h4,7,10-11,13H,3,5,8-9H2,1-2H3,(H,18,19,20);1H/t11-,13+;/m1./s1
